US07700594B2
N-({4-[8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl]cyclohexyl}methyl)methanesulfonamide
Methanesulfonyl chloride (4.40 μL, 0.057 mmol was added to a mixture of 1-{trans-4-[8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl]cyclohexyl}methanamine (20.5 mg, 0.057 mol) and PS-DIEA (3.90 mmol/g loading; 60 mg, 0.2mmol) in DCM (1.14 mL). The reaction mixture was stirred for 30 min at r.t. for 18 h. The crude reaction mixture was then concentrated and residue purified by mass directed preparative HPLC to afford 4 mg of desired product. MS (ES+): m/z 439.10 (100) [MH+]. 1H NMR (CD3OD, 400 MHz): δ 8.24 (br s, 2H), 7.61 (m, 2H), 7.46 (dd, J=8.4, 0.8 Hz, 1H), 7.19 (ddd, J=7.2, 1.2, 1.2 Hz, 1H), 7.08 (ddd, J=7.2, 1.2, 1.2 Hz, 1H), 6.75 (d, J=0.8 Hz, 1H), 3.14 (m, 1H), 2.07 (m, 4H), 1.85 (m, 2H), 1.64 (m, 1H), 1.26 (m, 2H).

reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-{trans-4-[8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl]cyclohexyl}methanamine | 0.057 mol, 20.5 mg | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)[C@@H]2CC[C@H](CC2)CN | C21H24N6
reactant | DIEA | 0.2mmol, 60 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1.14 mL | C(Cl)Cl | CH2Cl2
product | N-({4-[8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl]cyclohexyl}methyl)methanesulfonamide | 4 mg | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)C2CCC(CC2)CNS(=O)(=O)C | C22H26N6O2S
